US07179941B2
b) N-(5-Nitro-2-pyrrolidin-1-ylphenyl)acetamide
0.5 g (2.5 mmol) of N-(2-fluoro-5-nitrophenyl)acetamide was admixed in a pressure reaction vessel with 1 ml (12.6 mmol) of pyrrolidine and stirred at 90° C. for 2.5 hours. After the mixture had been cooled, it was diluted with 20 ml of dichloromethane, adjusted to pH 4 using citric acid solution (10%) and washed four times with water. After the organic phase had been dried, the solvent was removed under reduced pressure. In the aqueous phase, a solid is precipitated out. It was filtered off with suction and washed with water, and combined with the residue from the organic phase (yield 0.58 g, 93%). The product was reacted in stage c without further purification.

reactant | N-(2-fluoro-5-nitrophenyl)acetamide | 2.5 mmol, 0.5 g | FC1=C(C=C(C=C1)[N+](=O)[O-])NC(C)=O | C8H7FN2O3
reactant | pyrrolidine | 12.6 mmol, 1 ml | N1CCCC1 | C4H9N
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | N-(5-Nitro-2-pyrrolidin-1-ylphenyl)acetamide | [N+](=O)([O-])C=1C=CC(=C(C1)NC(C)=O)N1CCCC1 | C12H15N3O3
